US09108969B2
Step C: Preparation of 4-(Chloromethyl)-1-(cyclohexylmethyl)-2-(trifluoromethyl)benzene
To a solution of (4-(cyclohexylmethyl)-3-(trifluoromethyl)phenyl)methanol (0.060 g, 0.220 mmol) in toluene (2 mL) was added thionyl chloride (1.32 mmol). The reaction was heated to 75° C. for 3 h and quenched with water at 0° C. The mixture was extracted with hexanes (twice). The combined organics were washed with saturated NaHCO3(aq), dried over MgSO4, and concentrated to give the title compound as an oil (0.220 mmol). 1H NMR (400 MHz, CDCl3) δ ppm 0.91-1.06 (m, 2H), 1.12-1.23 (m, 3H), 1.61-1.74 (m, 6H), 2.66 (d, J=6.95 Hz, 2H), 4.59 (s, 2H), 7.30 (d, J=7.96 Hz, 1H), 7.47 (d, J=7.96 Hz, 1H), 7.63 (s, 1H).

reactant | (4-(cyclohexylmethyl)-3-(trifluoromethyl)phenyl)methanol | 0.220 mmol, 0.060 g | C1(CCCCC1)CC1=C(C=C(C=C1)CO)C(F)(F)F | C15H19F3O
reactant | thionyl chloride | 1.32 mmol | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Chloromethyl)-1-(cyclohexylmethyl)-2-(trifluoromethyl)benzene | 0.220 mmol | ClCC1=CC(=C(C=C1)CC1CCCCC1)C(F)(F)F | C15H18ClF3
